US07625908B2
5-[2-(Methylamino)ethoxy]-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}quinazolin-4-amine (32 mg, 0.077 mmol) and glycolic acid (6 mg, 0.085 mmol) were dissolved in DMA (10 ml). HATU (32 mg, 0.085 mmol) was added, and the mixture was stirred at ambient temperature for 16 hours. The mixture was concentrated in vacuo, and the residue purified by reverse-phase HPLC, eluting with 5 to 50% acetonitrile in H2O containing 0.2% TFA. The appropriate fraction was evaporated, and the residue dissolved in methanol/DCM (1:1, 25 ml). The mixture was neutralised by stirring overnight with tetraalkylammonium carbonate, polymer bound. The mixture was filtered, and the filtrate was evaporated. Crystallisation from ethyl acetate/iso-hexane gave 2-hydroxy-N-methyl-N-(2-{[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)quinazolin-5-yl]oxy}ethyl)acetamide as a white crystalline solid (22 mg, 60%); NMR Spectrum (DMSO-d6, 400 MHz, 373K) 2.26 (s, 3H), 2.48 (s, 3H), 3.02 (s, 3H), 3.95 (t, 2H), 4.02-4.11 (m-3H), 4.55 (t, 2H), 6.96 (d, 1H), 7.20 (d, 1H), 7.23 (m, 2H), 7.38 (d, 1H), 7.65 (dd, 1H), 7.70 (d, 1H), 7.73 (dd, 1H), 8.20 (m, 1H), 8.49 (s, 1H), 9.77 (s, 1H); Mass spectrum MH+ 473.9

reactant | 5-[2-(Methylamino)ethoxy]-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}quinazolin-4-amine | 0.077 mmol, 32 mg | CNCCOC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C | C24H25N5O2
reactant | glycolic acid | 0.085 mmol, 6 mg | C(CO)(=O)O | C2H4O3
reactant | HATU | 0.085 mmol, 32 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMA | 10 ml | CC(=O)N(C)C | C4H9NO
product | 2-hydroxy-N-methyl-N-(2-{[4-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)quinazolin-5-yl]oxy}ethyl)acetamide | 22 mg, 60% | OCC(=O)N(CCOC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C)C | C26H27N5O4
